US09169193B2
0.2 mol of trans-2-aminocyclohexanol are dissolved in 600 ml of xylene isomer mixture and heated to reflux. 0.2 mol of a 50% sodium hydroxide or potassium hydroxide solution in water is added dropwise to this solution over 15 minutes. In the course of this, the water which has been introduced and which forms is distilled off immediately. After the addition has ended, the water present in the reaction solution is distilled off further until a transition temperature of 140-141° C. is attained. Thereafter, 0.2 mol of benzyl chloride is added dropwise over 30 minutes and the solution is stirred further under reflux for two hours. After aqueous workup, the desired 2-benzyloxycyclohexylamine is obtained in 62% (GC area%) yield in the case of sodium hydroxide, and in 69% (GC area%) yield in the case of potassium hydroxide.

reactant | trans-2-aminocyclohexanol | 0.2 mol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | benzyl chloride | 0.2 mol | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | xylene | 600 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 2-benzyloxycyclohexylamine | C(C1=CC=CC=C1)OC1C(CCCC1)N | C13H19NO
